US07452892B2
D. Preparation of 8-bromo-7-(4-chlorophenyl)-5-methyl-2-((6-(trifluoromethyl)pyridin-3-yl)methyl)-[1,2,4]triazolo[4,3-c]pyrimidin-3(2H)-one
To a solution of 7-(4-chlorophenyl)-5-methyl-2-((6-(trifluoromethyl)pyridin-3-yl)methyl)-[1,2,4]triazolo[4,3-c]pyrimidin-3(2H)-one (210 mg, 0.50 mmol) in dichloromethane (10 mL) and methanol (10 mL) at room temperature under argon was added calcium carbonate (50.0 mg, 0.50 mmol) and N,N,N-trimethyl-1-phenylmethanaminium tribromide (195 mg, 0.50 mmol). The resulting suspension was stirred and heated at 60° C. under argon for 1 h. Analysis by HPLC/MS indicated that the starting material had been consumed. The solvents were removed under reduced pressure, and water (25 mL) was added. After stirring at room temperature for 30 min, the solid product was collected by filtration and further washed with water (2×10 mL). After drying, the title compound (273 mg) was obtained as an off-white solid. HPLC/MS: retention time=3.84 min, [M+H]30 =500.

reactant | 7-(4-chlorophenyl)-5-methyl-2-((6-(trifluoromethyl)pyridin-3-yl)methyl)-[1,2,4]triazolo[4,3-c]pyrimidin-3(2H)-one | 0.50 mmol, 210 mg | ClC1=CC=C(C=C1)C1=CC=2N(C(=N1)C)C(N(N2)CC=2C=NC(=CC2)C(F)(F)F)=O | C19H13ClF3N5O
reactant | calcium carbonate | 0.50 mmol, 50.0 mg | C([O-])([O-])=O.[Ca+2]
reactant | N,N,N-trimethyl-1-phenylmethanaminium tribromide | 0.50 mmol, 195 mg | [Br-].[Br-].[Br-].C[N+](CC1=CC=CC=C1)(C)C.C[N+](CC1=CC=CC=C1)(C)C.C[N+](CC1=CC=CC=C1)(C)C
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
solvent | methanol | 10 mL | CO | CH4O
product | 8-bromo-7-(4-chlorophenyl)-5-methyl-2-((6-(trifluoromethyl)pyridin-3-yl)methyl)-[1,2,4]triazolo[4,3-c]pyrimidin-3(2H)-one | 273 mg | BrC=1C=2N(C(=NC1C1=CC=C(C=C1)Cl)C)C(N(N2)CC=2C=NC(=CC2)C(F)(F)F)=O | C19H12BrClF3N5O
